US06548671B2
Quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-7-methyl-4-(2-oxo-ethylcarbamoyl)-octyl]-amide
To a solution of quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-4-(2-hydroxy-ethylcarbamoyl)-7-methyl-octyl]-amide (250 mg, 0.400 mmol) in methylene chloride was added 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one [Dess-Martin periodinane] (340 mg, 0.800 mmol). The reaction was stirred for 2 hours and then diluted with ether and quenched with a 1:1 mixture of saturated aqueous sodium thiosulfate:sodium bicarbonate. The layers were separated and the aqueous layer extracted with ethyl acetate. The combined organics were washed with a 1:1 mixture of saturated aqueous sodium thiosulfate:sodium bicarbonate, water, and saturated sodium chloride. The organic layer was then dried over sodium sulfate, filtered, and concentrated. Chromatography on silica gel gave the title compound (233 mg, 94%).

reactant | quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-4-(2-hydroxy-ethylcarbamoyl)-7-methyl-octyl]-amide | 0.400 mmol, 250 mg | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C(NCCO)=O)O[Si](C)(C)C(C)(C)C)NC(=O)C1=NC2=CC=CC=C2N=C1 | C34H49FN4O4Si
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 0.800 mmol, 340 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | Quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-7-methyl-4-(2-oxo-ethylcarbamoyl)-octyl]-amide | 233 mg, 94% | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C(NCC=O)=O)O[Si](C)(C)C(C)(C)C)NC(=O)C1=NC2=CC=CC=C2N=C1 | C34H47FN4O4Si
